US05104888
6-Acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)-2H-chromene (Step F3)
Following the procedure described in Preparation 57, 160 mg of 6-acetoxy-4-hydroxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman (prepared as described in Preparation 48), 10 mg of p-toluenesulfonic acid and 2 ml of benzene gave the title compound.

reactant | 6-acetoxy-4-hydroxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman | 160 mg | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)O)C | C22H25NO7
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 6-Acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)-2H-chromene | C(C)(=O)OC=1C(=C2C=CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)C | C22H23NO6
